US04798897
To 70 ml of pyridine were added 5.24 g of N-hexyl-N-(2-hydroxyethyl)-5-isoquinolinesulfonamide and 3.39 g of p-toluenesulfonyl chloride. The resulting mixture was stirred at 60° C. for 4 hours. Then, the pyridine was removed under reduced pressure to obtain an oily residue. To the residue were added 50 ml of chloroform and 20 ml of an aqueous hydrochloric acid solution having a pH of 2, and the chloroform layer was dried with anhydrous magnesium sulfate. Then, the chloroform was removed under reduced pressure to obtain a residue. The residue thus obtained was subjected to purification by silica gel column chromatography (Wacogel C-200, 100 g; solvent: a 3% methanol solution in chloroform) to obtain 2.60 g of N-hexyl-N-(2-p-toluenesulfonyloxyethyl)-5-isoquinolinesulfonamide.

reactant | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
reactant | N-hexyl-N-(2-hydroxyethyl)-5-isoquinolinesulfonamide | 5.24 g | C(CCCCC)N(S(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCO | C17H24N2O3S
reactant | p-toluenesulfonyl chloride | 3.39 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-hexyl-N-(2-p-toluenesulfonyloxyethyl)-5-isoquinolinesulfonamide | 2.60 g | C(CCCCC)N(S(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C24H30N2O5S2
